US04215228
A suspension of 89.2 g (0.40 mole) of diethyl fluoronitromalonate in 80 ml (1.0 mole) of 37% aqueous formaldehyde was cooled in an ice-bath to 2° C. A solution of 66.0 g (1.60 mole) of sodium hydroxide in 400 ml of water was then added dropwise with vigorous stirring over 100 minutes, below 10° C. After the reaction mixture was stirred overnight in the ice-bath, it was filtered and the filtrate was extracted with ethyl acetate (3×1000 ml). The ethyl acetate solution was dried over sodium sulfate and distilled (0.17 mm/170° bath) to give 25.5 g (45.9%) of 2-fluoro-2-nitro-1,3-propanediol; mp 86°-87° C.; 1HNMR (acetone-d6) δ3.90 (d, J=6Hz, 2 H, --CH2 --), 4.20 (t, J=6Hz, 2 H, --CH2 --), 4.80 (t, J=6Hz, 2 H, --OH); 19FNMR (acetone-d6) φ145.6 (quintuplet J=16Hz). IR (CH2Cl2) 3620 (--OH), 1575, 1335 (--NO2), 1040 cm-1 (C=F).

reactant | diethyl fluoronitromalonate | 0.40 mole, 89.2 g | FC(C(=O)OCC)(C(=O)OCC)[N+](=O)[O-] | C7H10FNO6
reactant | formaldehyde | 1.0 mole, 80 ml | C=O | CH2O
reactant | sodium hydroxide | 1.60 mole, 66.0 g | [OH-].[Na+]
solvent | water | 400 ml | O | H2O
product | 2-fluoro-2-nitro-1,3-propanediol | 25.5 g, 45.9% | FC(CO)(CO)[N+](=O)[O-] | C3H6FNO4
